US07951816B2
Methyl 4-{[(4-hydroxybutyl)amino]carbonyl}benzoate (Compound 34)
The same procedure as a series of reactions of Example 17 was carried out, except that 4-amino-1-butanol was used in place of the compound 16 and 4-(methoxycarbonyl)benzoic acid was used in place of 1H-imidazole-2-carboxylic acid, to obtain the title compound having the following physical properties.

reactant | 4-amino-1-butanol | NCCCCO | C4H11NO
reactant | 4-(methoxycarbonyl)benzoic acid | COC(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O4
product | Methyl 4-{[(4-hydroxybutyl)amino]carbonyl}benzoate | OCCCCNC(=O)C1=CC=C(C(=O)OC)C=C1 | C13H17NO4
